### PR TITLE
[Merged by Bors] - feat: port Algebra.MonoidAlgebra.Basic

### PR DESCRIPTION
**Pull request by Komyyy**
---

- [x] depends on: #2600
- [x] depends on: #2618

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#2600
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#2600~~
* ~~leanprover-community/mathlib4#2618~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,2001 @@
...
+            by_cases h1 : f p.1 = 0
+            · rw [h1, zero_mul]
+            · rw [hp hps h1, mul_zero]
+
+#align monoid_algebra.mul_apply_antidiagonal MonoidAlgebra.mul_apply_antidiagonal
+
+-- Porting note: Type ascriptions didn't work, so `α` & `β` of `HMul.hMul` are specified.
+@[simp]
+theorem single_mul_single [Mul G] {a₁ a₂ : G} {b₁ b₂ : k} :
+    HMul.hMul (α := MonoidAlgebra k G) (β := MonoidAlgebra k G) (single a₁ b₁) (single a₂ b₂)
```
Comment (jcommelin) [inline Mathlib/Algebra/MonoidAlgebra/Basic.lean:421]: Hmm, that's a pity. We should try to solve this, or at least create an issue for it.
That issue should then be mentioned in all places in this file where the problem occurs.

Comment (jcommelin) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean:421]: Mario suggested in a PM that we should define `MonoidAlgebra.single` that has the right type.

Comment (Komyyy) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean:421]: I've submited [the issue](https://github.com/leanprover/lean4/issues/2134).

Comment (jcommelin) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean]: Could you please also define `MonoidAlgebra.single` and use that instead of `Finsupp.single`? Then you should be able to use notation as usual, without passing the types explicitly.

Comment (Komyyy) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean]: Even I define `MonoidAlgebra.single` as `abbrev`, it caused many problems in `simp`s. Instead, can I introduce these local notations?
```lean
local infixl:70 " *ₘ "   =>
  @HMul.hMul _ _ _ (inferInstanceAs (HMul (MonoidAlgebra _ _) (MonoidAlgebra _ _) _))

local infixl:80 " ^ₘ "   =>
  @HPow.hPow _ _ _ (inferInstanceAs (HPow (MonoidAlgebra _ _) _ _))

local infixr:73 " •ₘ " =>
  @HSMul.hSMul _ _ _ (inferInstanceAs (HSMul (MonoidAlgebra _ _) _ _))

local syntax (name := bigprodin) "∏ₘ " Std.ExtendedBinder.extBinder "in " term "," term:67 : term

macro_rules
  | `(∏ₘ $x:ident in $s, $r) =>
    `(@Finset.prod _ _ (inferInstanceAs (CommMonoid (MonoidAlgebra _ _))) $s (fun $x ↦ $r))
  | `(∏ₘ $x:ident : $t in $s, $p) =>
    `(Finset.prod _ _ (inferInstanceAs (CommMonoid (MonoidAlgebra _ _)))
      $s (fun $x:ident : $t ↦ $p))
```

Comment (jcommelin) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean]: @digama0 what do you suggest?

Comment (ChrisHughes24) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean]: I suggest defining `MonoidAlgebra.single` and copying every lemma about `finsupp.single` to `MonoidAlgebra.single`.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
